US04945182
A solution of 8.34 g (0.05 mol) of 2-allyl-4-methylphenol in 420 ml of CH3OH containing a few crystals of Sudan III indicator was cooled to -78° C. Ozone was passed through this solution until a color change of the Sudan III indicator showed that the ozonization reaction was complete. Solid sodium borohydride (6.4 g) was added in small portions to the cold solution. When this addition was complete, the solution was allowed to warm to room temperature overnight. The solution was made acid by the addition of 6N HCl, and then was concentrated to dryness in vacuo. The residue was dissolved in ethyl acetate and was washed with water, saturated NaHCO3 solution and brine. The solution was dried, filtered, and evaporated to give 7.3 g (96%) of 2-(2-hydroxy-5-methylphenyl)ethanol.

reactant | 2-allyl-4-methylphenol | 0.05 mol, 8.34 g | C(C=C)C1=C(C=CC(=C1)C)O | C10H12O
reactant | Ozone | O=[O+][O-] | O3
reactant | sodium borohydride | 6.4 g | [BH4-].[Na+]
reactant | HCl | 6N | Cl | ClH
solvent | CH3OH | 420 ml | CO | CH4O
product | 2-(2-hydroxy-5-methylphenyl)ethanol | 7.3 g, 96% | OC1=C(C=C(C=C1)C)CCO | C9H12O2
